US07569582B2
0.41 g of N-[8-(4-chloro-D-phenylalanyl)-8-azabicyclo[3.2.1]oct-3-yl]-N-cyclohexyl-N′,N′-diethylurea is dissolved in 4 ml of dichloromethane under N2 in the presence of 0.17 g of N-BOC-piperidone and of 0.23 g of sodium triacetoxyborohydride, and the mixture is stirred at ambient temperature for 16 h. After evaporation and hydrolysis, extraction is carried out with ethyl acetate until the aqueous phase is completely depleted. The organic phase is washed with H2O and then with a saturated aqueous sodium chloride solution. Drying over MgSO4 and concentration to dryness are carried out. The crude is chromatographed on silica gel, elution being carried out with a 98/2 mixture of dichloromethane and methanol. 0.37 g of tert-butyl 4-{[(1R)-1-(4-chlorobenzyl)-2-(3-{cyclohexyl[(diethylamino)carbonyl]amino}-8-azabicyclo-[3.2.1]oct-8-yl)-2-oxoethyl]amino}piperidine-1-carboxylate is then obtained.

reactant | N-[8-(4-chloro-D-phenylalanyl)-8-azabicyclo[3.2.1]oct-3-yl]-N-cyclohexyl-N′,N′-diethylurea | 0.41 g | ClC1=CC=C(C[C@@H](N)C(=O)N2C3CC(CC2CC3)N(C(=O)N(CC)CC)C3CCCCC3)C=C1 | C27H41ClN4O2
reactant | N-BOC-piperidone | 0.17 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 0.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | tert-butyl 4-{[(1R)-1-(4-chlorobenzyl)-2-(3-{cyclohexyl[(diethylamino)carbonyl]amino}-8-azabicyclo-[3.2.1]oct-8-yl)-2-oxoethyl]amino}piperidine-1-carboxylate | 0.37 g | ClC1=CC=C(C[C@H](C(=O)N2C3CC(CC2CC3)N(C(=O)N(CC)CC)C3CCCCC3)NC3CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C37H58ClN5O4
